US08278331B2
Sodium hydride (60% in mineral oil) (0.620 g, 15.5 mmol) was placed in a 100 mL round bottom flask under argon. Dry DMF (30 mL) was added, followed by portion wise addition of 2-chloro-4-hydroxypyridine (1.339 g, 10.33 mmol) at 0° C. The mixture was stirred at 0° C. for 30 minutes, and then slowly warmed to RT. A solution of 5-chloro-2,4-difluoronitrobenzene (2 g, 10.33 mmol) in DMF (4.4 mL) was added to the suspension, and the mixture was placed in a 90° C. oil bath to heat for 15 hours under argon. The reaction mixture was then cooled to RT and diluted with ethyl acetate (100 mL), washed with 10% aqueous LiCl (3×100 mL) and brine (2×100 mL), dried (MgSO4) and purified via silica gel chromatography (ethyl acetate/hexanes) to yield 2-chloro-4-(2-chloro-5-fluoro-4-nitrophenoxy)pyridine as a bright yellow oil (1.415 g, 45% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.56 (dd, 1H), 8.35 (dd, 1H), 7.88 (dd, 1H), 7.32 (dd, 1H), 7.18 (m, 1H); MS (ESI) m/z: 303.0 (M+H+).

reactant | Sodium hydride | 15.5 mmol, 0.620 g | [H-].[Na+]
reactant | 2-chloro-4-hydroxypyridine | 10.33 mmol, 1.339 g | ClC1=NC=CC(=C1)O | C5H4ClNO
reactant | 5-chloro-2,4-difluoronitrobenzene | 10.33 mmol, 2 g | ClC=1C(=CC(=C(C1)[N+](=O)[O-])F)F | C6H2ClF2NO2
solvent | DMF | 4.4 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-chloro-4-(2-chloro-5-fluoro-4-nitrophenoxy)pyridine | 1.415 g, 45% yield | ClC1=NC=CC(=C1)OC1=C(C=C(C(=C1)F)[N+](=O)[O-])Cl | C11H5Cl2FN2O3
